data/specific_train_final.csv
"[H:11][O:10][O:9][C:2]([CH3:1])([CH2:6][O:7][O:8])[CH:3]=[CH:4][OH:5]>>[H:11][O:8][O:7][CH2:6][C:2]([CH3:1])([CH:3]=[CH:4][OH:5])[O:9][O:10] 8-8,11; 10,11-8,11; 10,11-10",Room Temperature,Propagation,abstraction
"CCCC(C[O:20][O:21]N=O)O>>CCCC(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[O:1][O:2][O:3].[Cl:4]>>[O:1][O:2][O:3][Cl:4] 3-3,4;4-3,4",Room Temperature,Termination,recombine
"CC(C)(C)CC[O:20][O:21]N=O>>CC(C)(C)CC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C(CO)O[O:20])O.[N+](=O)([O-])[O:10]>>CC(C)(C(CO)O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC[CH:10]C.[O:20][O]>>CCC[CH:10](C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(OCCO)[O:20][O:21]N=O>>CC([O:20])OCCO.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CSC[O:20][O:21][O].[N+](=O)[O-]>>CSC[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=CC=CC(=C1C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC1=C(C(=CC=C1)[O:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:12][O:11][O:10][CH:9]([CH2:13][O:14])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8].[N+:16](=[O:17])[O-:15]>>[H:12][O:11][O:10][CH:9]([CH2:13][O:14][N+:16](=[O:17])[O-:15])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8] 16-16,14; 14-16,14",Room Temperature,Termination,recombine
"C(C(O[O:20])Cl)O.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])Cl)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C1=C(C=CC=C1)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=CC(=C(C([CH:10]1)O[N+](=O)[O-])C)O.[O:20][O]>>CC1=CC(=C(C([CH:10]1[O:20][O])O[N+](=O)[O-])C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](CO[N+](=O)[O-])[O:20][OH:21]>>C[C:10](=[O:20])CO[N+](=O)[O-].[OH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][O:21]C1=C(C=CC=C1)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(OC(C)(C)C)O[O:10]>>[H:20][O:10]OC(C)OC(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
CCC(=O)CC[O].O=[N:10][O:20]>>O=[N+:10][O-:20].CCC(=O)CC[O] 10-20,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CC(C(C=O)O)O[O:10]>>[H:20][O:10]OC(C)C(C=O)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCCCCCC(CC)O[O:20].[N:10]=O>>CCCCCCCCCC(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=CCO)O[O:20].[N:10]=O>>CC(=CCO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C1=CC=C(C=C1)C.[OH:10]>>[H:20][OH:10].CC1=CC=C(C=C1)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC1(C=CC2C(C1(OO2)C)O)[O:10][O:20][O].[N+]([O-])=O>>CCC1(C=CC2C(C1(OO2)C)O)[O:10].[O:20][O].[N+]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"C(C(CCl)Cl)O[O:20].[N+](=O)([O-])[O:10]>>C(C(CCl)Cl)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[CH:10]CCOC(=O)C.[O:20][O]>>C[CH:10](CCOC(=O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:18]>>[CH3:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH:6]([CH2:7][CH3:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:18] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CC[CH:20]=[CH2:21].[N+](=O)([O-])[O:10]>>CC[CH:20]([CH2:21])[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:9][O:8][O:7][C:3]([CH3:10])([CH2:2][OH:1])[CH:4][CH2:5][OH:6].[O:11][O:12]>>[H:9][O:8][O:7][C:3]([CH3:10])([CH2:2][OH:1])[CH:4]([CH2:5][OH:6])[O:11][O:12] 11-4,11;4-4,11",Room Temperature,Termination,recombine
"CC(CO)(C(CO)OO)[O:20].[N+:10](=O)[O-]>>CC(CO)(C(CO)OO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C=O)[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>CC(C(C=O)[O:21])O[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:6][C:4]([CH2:3][CH2:2][CH3:1])([O:5])[O:7][CH2:8][CH:9]([CH3:10])[OH:11].[H:15][O:14].[O:12][O:13]>>[H:15][O:14][H:6].[CH3:1][CH2:2][CH2:3][C:4](=[O:5])[O:7][CH2:8][CH:9]([CH3:10])[OH:11].[O:12][O:13] 4,6-14,6; 4,6-4,5; 5-4,5; 14-14,6",Room Temperature,Termination,abstraction
"C(C(O[O:20])Cl)O[N+](=O)[O-].[N:10]=O>>C(C(O[O:20][N:10]=O)Cl)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
